US08404861B2
Production of 1,3-dimethyl-5-trifluoromethylpyrazole-4-carboxylic Acid (Compound No. 4-1)
4-Iodo-1,3-dimethyl-5-trifluoromethylpyrazole (8.7 g, 30 mmol) was dissolved in tetrahydrofuran (87 ml), and a solution (1.6 M, 28 ml) of n-butyl lithium in hexane was slowly added under an argon atmosphere with cooling with dryice-acetone (not higher than −60° C.). After stirring at −70° C. for 30 min, the mixture was gradually warmed to room temperature while blowing in carbon dioxide. The reaction mixture was poured into water, the organic layer was removed, and the aqueous layer was acidified with hydrochloric acid. The aqueous layer was extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The obtained crude crystals were washed with hexane to give the desired compound (4.67 g) as crystals.

reactant | 4-Iodo-1,3-dimethyl-5-trifluoromethylpyrazole | 30 mmol, 8.7 g | IC=1C(=NN(C1C(F)(F)F)C)C | C6H6F3IN2
reactant | n-butyl lithium | 1.6 M, 28 ml | C(CCC)[Li]
reactant | water | O | H2O
reactant | tetrahydrofuran | 87 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | carbon dioxide | C(=O)=O | CO2
product | 1,3-dimethyl-5-trifluoromethylpyrazole-4-carboxylic Acid | 4.67 g, yield 74% | CN1N=C(C(=C1C(F)(F)F)C(=O)O)C | C7H7F3N2O2
